US08748415B2
Preparation of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((carboxymethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid
To the solution of 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-methoxy-2-oxoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid (50 mg, 0.081 mmol) in dioxane (2 ml) sodium hydroxide (0.162 ml, 0.162 mmol) was added. The resulting mixture was stirred at 70° C. for 2 h. The solvent was evaporated and the residue was purified by prep. HPLC to afford the title compound as a white solid (18 mg, 35%). LCMS: m/e 602.4 (MH+), 2.32 min (method 3). 1H NMR (400 MHz, MeOD) δ ppm 7.90 (d, J=8.3 Hz, 2H), 7.20 (d, J=8.3 Hz, 2H), 5.18-5.40 (m, 1H), 4.73 (s, 1H), 4.62 (br. s., 1H), 3.96 (d, J=5.0 Hz, 2H), 2.78-2.94 (m, 1H), 2.37-2.60 (m, 1H), 2.10 (s, 2H), 1.78-1.92 (m, 3H), 1.62-1.78 (m, 6H), 1.38-1.61 (m, 8H), 1.16-1.38 (m, 6H), 1.11-1.16 (m, 4H), 1.07 (s, 3H), 1.01 (s, 3H), 0.95 (s, 3H), 0.93 (s, 3H).

reactant | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((2-methoxy-2-oxoethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 0.081 mmol, 50 mg | COC(CNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C)=O | C40H57NO4
reactant | dioxane | 0.162 mmol, 2 ml | O1CCOCC1 | C4H8O2
product | 4-((1R,3aS,5aR,5bR,7aR,11aS,11bR,13aR,13bR)-3a-((carboxymethylamino)methyl)-5a,5b,8,8,11a-pentamethyl-1-(prop-1-en-2-yl)-2,3,3a,4,5,5a,5b,6,7,7a,8,11,11a,11b,12,13,13a,13b-octadecahydro-1H-cyclopenta[a]chrysen-9-yl)benzoic acid | 18 mg, 35% | C(=O)(O)CNC[C@]12[C@@H]([C@H]3CC[C@@H]4[C@]5(CC=C(C([C@@H]5CC[C@]4([C@@]3(CC1)C)C)(C)C)C1=CC=C(C(=O)O)C=C1)C)[C@@H](CC2)C(=C)C | C39H55NO4
